*LM358
*Dual LoPwr, HiGain, SnglSup OpAmp pkg:DIP8 (A:3,2,8,4,1)(B:5,6,8,4,7)
*
* Connections: 
*              Non-Inverting Input
*              |   Inverting Input
*              |   |   Positive Power Supply
*              |   |   |   Negative Power Supply
*              |   |   |   |   Output
*              |   |   |   |   |
.SUBCKT LM358  1   2   3   4   5
C1   11 12 5.544E-12
C2    6  7 20.00E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) 3 0 4 0 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 15.91E6 -20E6 20E6 20E6 -20E6
GA    6  0 11 12 125.7E-6
GCM   0  6 10 99 7.067E-9
IEE   3 10 DC 10.04E-6
HLIM 90  0 VLIM 1K
Q1   11  2 13 QX
Q2   12  1 14 QX
R2    6  9 100.0E3
RC1   4 11 7.957E3
RC2   4 12 7.957E3
RE1  13 10 2.773E3
RE2  14 10 2.773E3
REE  10 99 19.92E6
RO1   8  5 50
RO2   7 99 50
RP    3  4 30.31E3
VB    9  0 DC 0
VC 3 53 DC 2.100
VE   54  4 DC .6
VLIM  7  8 DC 0
VLP  91  0 DC 40
VLN   0 92 DC 40
.MODEL DX D(IS=800.0E-18)
.MODEL QX PNP(IS=800.0E-18 BF=250)
.ENDS LM358